US06476059B1
3.22 g of 5-pyridin-3-yl-1-indanone are dissolved in 160 ml of dichloromethane and, at 0° C., a solution of 1.34 ml of sulfuryl chloride in 40 ml of dichloromethane is added dropwise over the course of 15 minutes. After stirring at 0° C. for 30 minutes and then at room temperature for 60 minutes, 50 ml of a saturated sodium bicarbonate solution are slowly added. The organic phase is separated off, washed with water, dried over magnesium sulfate, concentrated in vacuo and purified by chromatography on silica gel with 50/1 dichloromethane/methanol. 2-Chloro-5-pyridin-3-yl-1 indanone with a melting point of 103-105° C. is obtained (in addition to 2,2-dichloro-5-pyridin-3-yl-1-indanone with a melting point of 109° C.).

reactant | 5-pyridin-3-yl-1-indanone | 3.22 g | N1=CC(=CC=C1)C=1C=C2CCC(C2=CC1)=O | C14H11NO
reactant | sulfuryl chloride | 1.34 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-pyridin-3-yl-1 indanone | ClC1C(C2=CC=C(C=C2C1)C=1C=NC=CC1)=O | C14H10ClNO
